US06566535B1
Ethyl 7-(4-propoxyphenyl)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxlate (495 g, 1.24 mol) was dissolved in 4.95 L of tetrahydrofuran and 2.48 L of methanol. Crystals were formed by adding a potassium carbonate (342 g, 2.47 mol) solution in 4.2 L of water and the mixture was heated under reflux for 6.5 hours. Under reflux, 1.85 L of a 3N hydrochloric acid was dropped to form crystals. After cooling, 84 ml of a 6N hydrochloric acid was added at room temperature (pH 2-3) and stirred for 1 hour while cooling in ice. After filtration, the residue was washed with 2.97 L of a mixed solution of tetrahydrofuran/methanol/water=1/1/3 . After vacuum drying (40° C.), 443 g (Yield 96%) of 7-(4-propoxyphenyl)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylic acid was obtained as pale yellowish white crystals.

reactant | Ethyl 7-(4-propoxyphenyl)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxlate | 1.24 mol, 495 g | C(CC)OC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)OCC)C1 | C22H24O5S
reactant | potassium carbonate | 2.47 mol, 342 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 3N | Cl | ClH
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | tetrahydrofuran | 4.95 L | O1CCCC1 | C4H8O
solvent | methanol | 2.48 L | CO | CH4O
solvent | water | 4.2 L | O | H2O
product | 7-(4-propoxyphenyl)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylic acid | 443 g, Yield 96% | C(CC)OC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)O)C1 | C20H20O5S
